* File: gray_b10901041.pex.sp.pex
* Created: Sun May 19 15:57:57 2024
* Program "Calibre xRC"
* Version "v2022.3_33.19"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_GRAY_NET39 6 7
c0 9 0 0.168167f
r1 7 9 4.59
r2 6 9 4.59
.ends

.subckt PM_GRAY_NET27 6 7
c0 9 0 0.168167f
r1 7 9 4.59
r2 6 9 4.59
.ends

.subckt PM_GRAY_G2 3 10 14
c0 19 0 0.115268f
c1 14 0 0.101719f
c2 10 0 0.0765611f
c3 6 0 0.0994372f
r4 17 19 6.04286
r5 12 19 4.92326
r6 12 14 36.75
r7 8 19 4.92326
r8 8 10 22.75
r9 6 17 13.2552
r10 3 6 0.0215714
.ends

.subckt PM_GRAY_VDD 13 17 21 51 55 97 125
c0 120 0 0.0873018f
c1 118 0 0.00110022f
c2 114 0 0.147237f
c3 92 0 0.11255f
c4 90 0 0.00282093f
c5 88 0 0.0565553f
c6 84 0 0.00144599f
c7 81 0 2.68252e-21
c8 45 0 0.059914f
c9 42 0 0.113014f
c10 38 0 0.156892f
c11 8 0 0.107321f
c12 4 0 0.141768f
r13 125 127 2.286
r14 119 120 0.0261051
r15 118 120 0.222353
r16 117 118 0.0259256
r17 113 114 0.0261051
r18 101 102 0.227051
r19 97 114 0.0802941
r20 95 112 0.0207776
r21 95 97 0.284118
r22 92 127 8.16635
r23 90 112 0.0202582
r24 90 92 0.366435
r25 88 117 0.0102308
r26 88 102 0.0102308
r27 84 119 0.0102308
r28 84 108 0.0102308
r29 83 119 0.0463365
r30 83 108 0.0463365
r31 82 117 0.0463365
r32 82 102 0.0463365
r33 81 113 0.0102308
r34 81 101 0.0102308
r35 80 113 0.0463365
r36 80 101 0.0463365
r37 55 57 2.295
r38 51 53 2.295
r39 45 108 0.237282
r40 45 85 0.0219566
r41 42 57 8.16635
r42 42 85 0.366739
r43 38 53 8.16635
r44 38 83 0.366739
r45 21 23 2.295
r46 17 19 2.295
r47 13 112 16.3327
r48 13 45 16.3327
r49 13 84 16.3327
r50 13 88 16.3327
r51 13 81 16.3327
r52 8 23 8.16635
r53 8 82 0.366739
r54 4 19 8.16635
r55 4 80 0.366739
.ends

.subckt PM_GRAY_GND 5 13 29 47 71
c0 56 0 0.0313478f
c1 53 0 0.00213965f
c2 51 0 0.248773f
c3 44 0 0.296504f
c4 42 0 0.0871823f
c5 18 0 0.0911769f
c6 2 0 0.102141f
r7 71 73 4.572
r8 59 60 0.0465054
r9 56 59 0.063
r10 51 52 0.470256
r11 45 56 0.00411102
r12 45 47 0.301538
r13 44 47 0.263846
r14 42 73 16.3327
r15 42 60 0.205739
r16 29 31 4.59
r17 19 53 0.0256678
r18 19 51 0.0169298
r19 18 53 0.205435
r20 18 31 16.3327
r21 13 15 4.59
r22 5 59 16.3327
r23 5 19 16.3327
r24 3 48 0.0189182
r25 3 44 0.0187308
r26 3 52 0.0187308
r27 3 5 16.3327
r28 2 48 0.205435
r29 2 15 16.3327
.ends

.subckt PM_GRAY_NET35 1 2 19 23
c0 38 0 0.0180522f
c1 28 0 0.094437f
c2 27 0 0.0719639f
c3 18 0 0.0289812f
c4 16 0 0.0659391f
c5 12 0 0.136467f
c6 8 0 0.0772511f
c7 2 0 0.15691f
c8 1 0 0.154907f
r9 32 38 4.15645
r10 29 38 4.15645
r11 28 36 7.54261
r12 27 38 0.712658
r13 27 28 28.125
r14 23 25 4.608
r15 19 21 2.304
r16 16 36 13.2552
r17 14 18 0.0059907
r18 14 16 0.21028
r19 12 21 8.16635
r20 10 18 0.031753
r21 10 12 0.192043
r22 8 25 16.3327
r23 6 18 0.031753
r24 6 8 0.167087
r25 2 29 45.5
r26 1 32 46
.ends

.subckt PM_GRAY_OUT 10 11 14 30
c0 32 0 0.133829f
c1 30 0 0.0855472f
c2 28 0 0.0694487f
c3 27 0 0.0282135f
c4 22 0 0.0537641f
c5 9 0 0.0295124f
c6 6 0 0.220883f
c7 2 0 0.0923325f
r8 30 32 0.00544444
r9 28 32 0.0267979
r10 24 27 0.039111
r11 23 28 0.175
r12 22 27 0.14
r13 14 16 4.59
r14 11 13 2.295
r15 10 13 2.295
r16 9 22 0.0296412
r17 9 23 0.0296412
r18 6 13 8.16635
r19 4 9 0.00770322
r20 4 6 0.330217
r21 2 24 0.141522
r22 2 16 16.3327
.ends

.subckt PM_GRAY_NET41 1 2 12 13 16
c0 53 0 0.0163603f
c1 51 0 0.085425f
c2 47 0 0.142121f
c3 45 0 0.123009f
c4 41 0 0.0300872f
c5 39 0 0.0847722f
c6 38 0 0.0531576f
c7 31 0 0.0443733f
c8 30 0 0.0449122f
c9 26 0 0.0672336f
c10 11 0 0.18075f
c11 8 0 0.254812f
c12 4 0 0.09267f
c13 2 0 0.205482f
r14 49 51 4.70625
r15 48 53 0.990414
r16 47 49 6.51649
r17 47 48 38
r18 45 53 3.81101
r19 42 53 3.81101
r20 38 51 13.2552
r21 38 39 0.0518409
r22 35 41 0.0296412
r23 32 41 0.00770322
r24 30 41 0.0296412
r25 30 31 0.124783
r26 28 31 0.039111
r27 28 39 0.211522
r28 26 35 0.14
r29 16 18 4.59
r30 13 15 2.295
r31 12 15 2.295
r32 11 26 0.0296412
r33 8 15 8.16635
r34 6 11 0.00770322
r35 6 8 0.330217
r36 4 32 0.141522
r37 4 18 16.3327
r38 2 42 58.5
r39 1 45 34
.ends

.subckt PM_GRAY_P2 1 2 10
c0 22 0 0.040544f
c1 12 0 0.0875917f
c2 10 0 0.171953f
c3 2 0 0.154175f
c4 1 0 0.13552f
r5 19 22 7.73958
r6 16 22 7.73958
r7 12 22 1.29764
r8 12 14 4.5766
r9 7 14 13.2552
r10 7 10 0.0339231
r11 2 16 43
r12 1 19 35
.ends

.subckt PM_GRAY_G1 1 2 10
c0 21 0 0.118517f
c1 10 0 0.15622f
c2 2 0 0.149578f
c3 1 0 0.125238f
r4 18 21 6.24255
r5 15 18 4.73303
r6 12 18 4.73303
r7 7 21 13.2552
r8 7 10 0.05845
r9 2 12 42.75
r10 1 15 35.25
.ends

